US09302991B2
<Step-1>:methyl 5-cyclopropyl-6-(2,2-difluoroethoxy)nicotinate
A mixture of methyl 5-bromo-6-(2,2-difluoroethoxy)nicotinate (900 mg, 3.0 mmol, Step-2 of Amine-74), cyclopropylboronic acid (780 mg, 9.1 mmol), palladium(II) acetate (34 mg, 0.15 mmol), tricyclohexylphosphine (0.60 mL, 0.30 mmol, 0.5M in toluene) and potassium phosphate (1.6 g, 7.6 mmol) in toluene/water (10:1, 33 mL) is stirred at reflux temperature overnight. After cooled to room temperature, the mixture is filtered through a pad of celite, washed with ethyl acetate. The filtrate is extracted with ethyl acetate and dried over sodium sulfate. The organic solvent is removed under reduced pressure and then the residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (15:1) to give 630 mg (81% yield) of the title compound as a pale yellow solid.

reactant | methyl 5-bromo-6-(2,2-difluoroethoxy)nicotinate | 3.0 mmol, 900 mg | BrC=1C(=NC=C(C(=O)OC)C1)OCC(F)F | C9H8BrF2NO3
reactant | cyclopropylboronic acid | 9.1 mmol, 780 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.30 mmol, 0.5M, 0.60 mL | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 7.6 mmol, 1.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene water | 33 mL | C1(=CC=CC=C1)C.O
catalyst | palladium(II) acetate | 0.15 mmol, 34 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 5-cyclopropyl-6-(2,2-difluoroethoxy)nicotinate | 630 mg, 81% yield | C1(CC1)C=1C(=NC=C(C(=O)OC)C1)OCC(F)F | C12H13F2NO3
